US04992474
[4-[(5-Bromopentyl)oxy]butyl]benzene
4-Phenylbutanol (5.80 g) was stirred in 1,5-dibromopentane (52 ml) and 5N NaOH solution (50 ml), and tetrabutyl ammonium bisulphate (0.87 g) was added and the reaction mixture was stirred at RT for 72 h. (After 42 h the NaOH layer was replaced by a fresh solution). The two layers were separated and the aqueous phase was extracted with ER (3×50 ml). The combined organic layers were dried (Na2SO4), and evaporated to give a clear liquid. Excess 1,5-dibromopentane was removed by distillation at 60° 1.00 mmHg. The residue was chromatographed on a silica (70-230 mesh, 30 g) column using CX as eluant, with a slowly increasing quantity of ER until the title compound was obtained, which on evaporation gave a colourless oil (3.26 g). T.l.c. (CX-ER (99:1)) Rf 0.15.

reactant | 4-Phenylbutanol | 5.80 g | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | 1,5-dibromopentane | 52 ml | BrCCCCCBr | C5H10Br2
solvent | NaOH | 5N, 50 ml | [OH-].[Na+]
catalyst | tetrabutyl ammonium bisulphate | 0.87 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
product | [4-[(5-Bromopentyl)oxy]butyl]benzene | 3.26 g | BrCCCCCOCCCCC1=CC=CC=C1 | C15H23BrO
